US07612075B2
B. 1-(4-Aminocinnolin-7-ylmethyl)-4-[2-(5-chlorothiophen-2-yl)-ethenesulfonyl]-piperazin-2-one
1-(4-Chlorocinnolin-7-ylmethyl)-4-[2-(5-chlorothiophen-2-yl)-ethenesulfonyl]-piperazin-2-one (0.06 g, 0.12 mmol) is treated with phenol (0.20 g) and ammonium acetate (0.2 g, 2.6 mmol) and heated to 120° C. for 45 minutes. The reaction mixture is cooled, diluted with ethyl acetate and washed with 1 N NaOH (3×100 mL) and water. The organic layer is concentrated and the residue is purified by reverse phase HPLC (20% aqueous TFA (0.1%)/acetonitrile to 100% acetonitrile). Fractions containing the desired product are lyophilized to obtain the title compound (0.02 g, 0.043 mmol). MS m/z: [M+H]+=464; 1H NMR (CD3OD, 300 MHz) δ8.6 (s, 1H), 8.4 (d, 1H), 7.75 (d, 1H), 7.65 (d, 1H), 7.35 (d, 1H), 7.1 (d, 1H), 6.8 (d, 1H), 4.9 (s, 2H), 4.05 (s, 2H), 3.6 (m, 4H).

reactant | 1-(4-Chlorocinnolin-7-ylmethyl)-4-[2-(5-chlorothiophen-2-yl)-ethenesulfonyl]-piperazin-2-one | 0.12 mmol, 0.06 g | ClC1=CN=NC2=CC(=CC=C12)CN1C(CN(CC1)S(=O)(=O)C=CC=1SC(=CC1)Cl)=O | C19H16Cl2N4O3S2
reactant | phenol | 0.20 g | C1(=CC=CC=C1)O | C6H6O
reactant | ammonium acetate | 2.6 mmol, 0.2 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Aminocinnolin-7-ylmethyl)-4-[2-(5-chlorothiophen-2-yl)-ethenesulfonyl]-piperazin-2-one | 0.043 mmol, 0.02 g | NC1=CN=NC2=CC(=CC=C12)CN1C(CN(CC1)S(=O)(=O)C=CC=1SC(=CC1)Cl)=O | C19H18ClN5O3S2
